US09340541B2
Direct Preparation of Polymorph Form A of 8-chloro-N-[(2-chloro-5-methoxyphenyl)-sulfonyl]-6-(trifluoromethyl)-imidazo[1,2-a]pyridine-2-carboxamide
A stirred slurry of 8-chloro-6-(trifluoromethyl)imidazo[1,2,a]pyridine-2-carboxylic acid ethyl ester (3.0 g, 10.3 mmol) and 2-chloro-5-methoxybenzenesulfonamide (2.39 g, 10.8 mmol, 1.05 equiv) in n-chlorobutane (45 mL) was heated to 50° C. under nitrogen. To this slurry was added neat diethylaluminum chloride (1.40 mL, 11.3 mmol). After complete addition of diethylaluminum chloride the temperature of the reaction mixture was adjusted to 65-70° C. and was held at this temperature for 4.5 h. An additional portion of n-chlorobutane (12 mL) was added and heating at 70° C. was continued for an additional 1.5 h. Iso-propanol (1.6 mL, 20.5 mmol, 2 equiv) was added at 70° C. and the resulting mixture stirred for 5 min. Aqueous 10% acetic acid (15 mL, 25.6 mmol, 2.5 equiv) was then added over a period of 10 min at 60-65° C. The reaction was allowed to cool to room temperature and then stirred overnight. The resulting solid was filtered, washed with water (12 mL) followed by n-chlorobutane (12 mL), and suction-dried. The solid product was further dried in a vacuum oven at 50-60° C. to give the title compound (4.09 g, 85.2%). Powder X-ray diffraction data conformed with Form A of Compound 1 as in Characterization Example 2.

reactant | 8-chloro-6-(trifluoromethyl)imidazo[1,2,a]pyridine-2-carboxylic acid ethyl ester | 10.3 mmol, 3.0 g | C(C)OC(=O)C=1N=C2N(C=C(C=C2Cl)C(F)(F)F)C1 | C11H8ClF3N2O2
reactant | 2-chloro-5-methoxybenzenesulfonamide | 10.8 mmol, 2.39 g, 1.05 equiv | ClC1=C(C=C(C=C1)OC)S(=O)(=O)N | C7H8ClNO3S
reactant | diethylaluminum chloride | 11.3 mmol, 1.40 mL | [Cl-].C(C)[Al+]CC
reactant | Iso-propanol | 20.5 mmol, 1.6 mL, 2 equiv | C(C)(C)O | C3H8O
reactant | acetic acid | 25.6 mmol, 15 mL, 2.5 equiv | C(C)(=O)O | C2H4O2
solvent | n-chlorobutane | 45 mL | CCCCCl | C4H9Cl
solvent | n-chlorobutane | 12 mL | CCCCCl | C4H9Cl
product | 8-chloro-N-[(2-chloro-5-methoxyphenyl)-sulfonyl]-6-(trifluoromethyl)-imidazo[1,2-a]pyridine-2-carboxamide | 4.09 g, 85.2% | ClC=1C=2N(C=C(C1)C(F)(F)F)C=C(N2)C(=O)NS(=O)(=O)C2=C(C=CC(=C2)OC)Cl | C16H10Cl2F3N3O4S
